* 
* Linear Technology LT1078 op amp model (with calls for LT1079, LT1077)
* Written: 06-20-1990 13:27:10 Type: Bipolar pnp input, internal comp.
* Typical specs: 
* Vos=4.0E-05, Ib=6.0E-09, Ios=5.0E-11, GBP=2.0E+05Hz, Phase mar.= 60 deg, 
* SR(-)=8.0E-02V/us, SR(+)=7.6E-02V/us, Av= 120 dB, CMMR= 108 dB, 
* Vsat(+)=0.70V, Vsat(-)=0.00V, Isc=+/-15.0mA, Iq= 45uA.
* (input common mode clamp active)
* 
* Connections: + - V+V-O 
.SUBCKT LT1078 3 2 7 4 6 
* INPUT
RC1 4 80 2.653E+04
RC2 4 90 2.653E+04
Q1 80 102 10 QM1 
Q2 90 103 11 QM2 
RB1 2 102 6.000E+02
RB2 3 103 6.000E+02
DCM1 105 102 DM2 
DCM2 105 103 DM2 
VCMC 105 4 4.000E-01
C1 80 90 8.660E-12
RE1 10 12 4.958E+03
RE2 11 12 4.958E+03
IEE 7 12 2.412E-06
RE 12 0 8.292E+07
CE 12 0 1.579E-12
* INTERMEDIATE 
GCM 0 8 12 0 1.501E-10
GA 8 0 80 90 3.770E-05
R2 8 0 1.000E+05
C2 1 8 3.000E-11
GB 1 0 8 0 2.449E+02
* OUTPUT 
RO1 1 110 1.000E+02
RO2A 1 0 1.083E+03
RO2B 6 110 8.170E+02
EC 17 0 110 0 1 
D1 1 17 DM1 
D2 17 1 DM1 
D3 110 13 DM2 
D4 14 110 DM2 
D5 6 110 DM2 
D6 110 6 DM2 
VC 7 13 1.490E+00
VE 14 4 7.911E-01
IP 7 4 4.259E-05
DSUB 4 7 DM2 
* MODELS 
.MODEL QM1 PNP (IS=8.000E-16 BF=1.992E+02)
.MODEL QM2 PNP (IS=8.012E-16 BF=2.008E+02)
.MODEL DM1 D (IS=3.718E-24)
.MODEL DM2 D (IS=8.000E-16)
.ENDS LT1078
* 
.SUBCKT LT1079 3 2 7 4 6 
X_LT1079 3 2 7 4 6 LT1078
.ENDS LT1079
* 
.SUBCKT LT1077 3 2 7 4 6 
X_LT1077 3 2 7 4 6 LT1078
.ENDS LT1077
* 
* - - - - - * FINI LT1078 FAMILY * - - - - - * [OAMM VP02 5/11/90]
***
*         (C) COPYRIGHT LINEAR TECHNOLOGY CORPORATION 1990
*                       All rights reserved.
* 
*   Linear Technology Corporation hereby grants the users of this
* macromodel a non-exclusive, nontransferrable license to use this
*            macromodel under the following conditions:
* 
* The user agrees that this macromodel is licensed from Linear
* Technology and agrees that the macromodel may be used, loaned,
* given away or included in other model libraries as long as this
* notice and the model in its entirety and unchanged is included.
* No right to make derivative works or modifications to the
* macromodel is granted hereby.  All such rights are reserved.
* 
* This model is provided as is.  Linear Technology makes no
* warranty, either expressed or implied about the suitability or
* fitness of this model for any particular purpose.  In no event
* will Linear Technology be liable for special, collateral,
* incidental or consequential damages in connection with or arising
* out of the use of this macromodel.  It should be remembered that
* models are a simplification of the actual circuit.
* 
* Linear Technology reserves the right to change these macromodels
* without prior notice.  Contact Linear Technology at 1630 McCarthy
* Blvd., Milpitas, CA, 95035-7487 or telephone 408/432-1900 for
* datasheets on the actual amplifiers or the latest macromodels.
* 
* ----------------------------------------------------------------------- *
